US04509970
A mixture of ethyl 2-[P-ethyl-2-hydroxyamino-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate (400 mmol) and ferric chloride (600 mmol) in aqueous ethanol (1:3 water:ethanol; 10 ml) is stirred at RT for 10 min. The reaction is filtered and the filtrate is diluted with methylene chloride, washed, dried and evaporated to dryness to give ethyl 2-[P-ethyl-2-nitroso-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate.

reactant | ethyl 2-[P-ethyl-2-hydroxyamino-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate | 400 mmol | C(C)P(=O)(ON=C(C(=O)OCC)C)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)NO | C20H21ClF3N2O6P
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-[P-ethyl-2-nitroso-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate | C(C)P(=O)(ON=C(C(=O)OCC)C)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)N=O | C20H19ClF3N2O6P
